US03987160
Ethyl α-oximinocyanoacetate (21 g.) was added to a solution of sodium (11.3 g.) in anhydrous methanol (300 ml.). Crude 3,5-dichloro-2-methoxybenzamidine (24 g.) dissolved in a little anhydrous methanol was added, and the mixture was heated to reflux with stirring for 8 hours. The mixture was poured into water (2000 ml.) and acidified with glacial acetic acid. The solid obtained was filtered off, washed with water and recrystallised from glacial acetic acid to give 4-amino-2-(3,5-dichloro-2-methoxyphenyl)-5-nitrosopyrimid-6-one (6.8 g.), m.p. 265° C. (with decomposition).

reactant | Ethyl α-oximinocyanoacetate | 21 g | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
reactant | sodium | 11.3 g | [Na] | Na
reactant | 3,5-dichloro-2-methoxybenzamidine | 24 g | ClC=1C(=C(C(=N)N)C=C(C1)Cl)OC | C8H8Cl2N2O
reactant | water | 2000 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-2-(3,5-dichloro-2-methoxyphenyl)-5-nitrosopyrimid-6-one | 6.8 g | NC=1N=C(NC(C1N=O)=O)C1=C(C(=CC(=C1)Cl)Cl)OC | C11H8Cl2N4O3
